US04650785
4-Nitro-L-phenylalanine (21 g) was dissolved in 10% NaOH (10 ml), and an ethyl ether solution of phenoxyacetyl chloride (1.7 g) and an aqueous Na2CO3 solution prepared from Na2CO3 2.7 g and water 25 ml were alternately added stepwise thereto while stirring at room temperature over 20 minutes. After that, the mixture was stirred at a room temperature for 3 hours, and then acidified with dilute HCl to precipitate the crystals. The crystals were filtered, washed with water, and re-crystallized from dioxan to obtain N-phenoxyacetyl-4-nitro-L-phenylalanine as needles having melting point: 147° C. (2.4 g).

reactant | 4-Nitro-L-phenylalanine | 21 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | phenoxyacetyl chloride | 1.7 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2CO3 | 2.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | NaOH | 10 ml | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-phenoxyacetyl-4-nitro-L-phenylalanine | O(C1=CC=CC=C1)CC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C17H16N2O6
